US08211908B2
To a solution of 0.85 g of ethyl (2E)-3-(3-amino-5-methoxypyrazin-2-yl)acrylate in 40 mL of ethanol, 2.20 g of a 28% sodium methoxide/methanol solution was added, and the mixture was heated under reflux while stirring for 7 hours 30 minutes. The reaction mixture was cooled to room temperature, the solvent was then distilled off under reduced pressure, and to the resultant residue, water, a saturated aqueous ammonium chloride solution and chloroform were added, the organic layer was separated, and the aqueous layer was added with sodium chloride and extracted with chloroform. The organic layer and the extract were combined, the resultant solution was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. Diethyl ether was added to the resultant residue, and the solid was filtered off and washed with diethyl ether to obtain 0.64 g of 3-methoxypyrido(2,3-b)pyrazin-6(5H)-one as a light yellow solid.

reactant | ethyl (2E)-3-(3-amino-5-methoxypyrazin-2-yl)acrylate | 0.85 g | NC=1C(=NC=C(N1)OC)/C=C/C(=O)OCC | C10H13N3O3
reactant | sodium methoxide methanol | C[O-].[Na+].CO
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 3-methoxypyrido(2,3-b)pyrazin-6(5H)-one | 0.64 g | COC1=CN=C2C(=N1)NC(C=C2)=O | C8H7N3O2
